US06660744B1
1-[ 1-(1-tert-butoxycarbonyl-4-piperidinyl)-4-piperidinyl]-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (254 mg, 0.446 mmol) was stirred in 25 ml of 10% trifluoroacetic acid in dichloromethane overnight. The solvent was evaporated and the residue was dissolved in dichloromethane. Saturated sodium bicarbonate was added and the resulting mixture was stirred for 30 minutes. The layers were separated and the aqueous layer was extracted with dichloromathane. The combined organic layer was washed, dried and evaporated to give 108 mg of 1-[1-(4-piperidinyl)-4-piperidinyl]-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (Intermediate GG) which was used without further purification.

reactant | 1-[ 1-(1-tert-butoxycarbonyl-4-piperidinyl)-4-piperidinyl]-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.446 mmol, 254 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CCC(CC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C32H39N7O3
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[1-(4-piperidinyl)-4-piperidinyl]-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 108 mg | N1CCC(CC1)N1CCC(CC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C27H31N7O
